US05006520
In 5 ml of water was dissolved 0.97 g of sodium hydroxide, whereto 100 ml of ethanol was added. Thereto was added a solution of 8.0 g of ethyl 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetate dissolved in 60 ml of dioxane while stirring. After the mixture was stirred at room temperature for 4 hours, about 500 ml of water was added thereto and the mixture was neutralized with dilute hydrochloric acid. The resulting crystals were collected by filtration and recrystallized from dioxane to give 4.8 g of 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetic acid, m.p. 225°-226° C.

reactant | sodium hydroxide | 0.97 g | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethyl 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetate | 8.0 g | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C=2C=C(OCC(=O)OCC)C=CC2 | C22H18FN3O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | about 500 ml | O | H2O
product | 3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetic acid | 4.8 g | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C=2C=C(OCC(=O)O)C=CC2 | C20H14FN3O3
